US07456315B2
1.36 Preparation of 4-Hydroxy-3,5-dimethoxy-benzoic acid N-tert-butyl-N′-(5-methyl-2,3-dihydro-benzo[1,4]dioxine-6-carbonyl)-hydrazide (RG-115009)
Acetic acid 4-[N-tert-butyl-N′-(5-methyl-2,3-dihydro-benzo[1,4]dioxine-6-carbonyl)-hydrazinocarbonyl]-2,6-dimethoxy-phenyl ester (300 mg) was dissolved in methanol with 28% aqueous ammonia (750 mg). The mixture was stirred at ambient temperature over the weekend. The precipitate was filtered to provide 110 mg of white solid 4-hydroxy-3,5-dimethoxy-benzoic acid N-tert-butyl-N′-(5-methyl-2,3-dihydro-benzo[1,4]dioxine-6-carbonyl)-hydrazide. 1H NMR (CDCl3, 300 MHz) δ (ppm): 1.59 (s, 15H), 2.02 (s, 3H), 3.85 (s, 6H), 4.21 (m, 4H), 5.6-5.7 (broad s, 1H), 6.22 (d, 1H), 6.58 (d, 1H), 6.81 (s, 2H).

reactant | Acetic acid 4-[N-tert-butyl-N′-(5-methyl-2,3-dihydro-benzo[1,4]dioxine-6-carbonyl)-hydrazinocarbonyl]-2,6-dimethoxy-phenyl ester | 300 mg | C(C)(C)(C)N(NC(=O)C1=C(C2=C(OCCO2)C=C1)C)C(=O)C1=CC(=C(C(=C1)OC)OC(C)=O)OC | C25H30N2O8
reactant | ammonia | 750 mg | N | H3N
solvent | methanol | CO | CH4O
product | 4-Hydroxy-3,5-dimethoxy-benzoic acid N-tert-butyl-N′-(5-methyl-2,3-dihydro-benzo[1,4]dioxine-6-carbonyl)-hydrazide | 110 mg | C(C)(C)(C)N(NC(=O)C1=C(C2=C(OCCO2)C=C1)C)C(C1=CC(=C(C(=C1)OC)O)OC)=O | C23H28N2O7
